US08895745B2
Step c) 7-(5-Methyl-isoxazol-3-yl)-imidazo[1,2-a]pyridine
To a solution of 1-Imidazo[1,2-a]pyridin-7-yl-but-2-yn-1-one (168 mg, 0.91 mmol) and hydroxylamine hydrochloride (94 mg, 1.37 mmol) in DMF (10 ml) was added triethylamine (0.21 ml, 1.83 mmol). The reaction mixture was heated at 80° C. for 18 h, then partitioned between EtOAc and H2O. The organic fraction was separated, dried (MgSO4), filtered and the solvent removed in vacuo. The crude residue was purified by silica column chromatography (0-50% MeOH in Et2O) to afford the product (46 mg). MS: [M+H]+=200.

reactant | 1-Imidazo[1,2-a]pyridin-7-yl-but-2-yn-1-one | 0.91 mmol, 168 mg | N=1C=CN2C1C=C(C=C2)C(C#CC)=O | C11H8N2O
reactant | hydroxylamine hydrochloride | 1.37 mmol, 94 mg | Cl.NO
reactant | triethylamine | 1.83 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-(5-Methyl-isoxazol-3-yl)-imidazo[1,2-a]pyridine | 46 mg | CC1=CC(=NO1)C1=CC=2N(C=C1)C=CN2 | C11H9N3O
